US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.101 g, 0.641 mmol was reacted with 3-(2-Azido-ethyl)-thiophene (0.118 g, 0.769 mmol) following the general procedure for click reactions outlined above to produce 4-[1-(2-Thiophen-3-yl-ethyl)-1H[1,2,3]triazol-4-ylmethyl]-1H-imidazol-2-ylamine hydrochloride (0.119 g, 60%) of a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 7.42 (s, 1H), δ 7.19 (t, 1H), δ 6.90 (s, 1H), □ 6.78 (d, 1H), δ 6.09 (s, 1H), δ 4.47 (t, 2H), δ 3.67 (s, 2H), δ 3.09 (t, 2H) ppm; 13C; (75 MHz, CD3OD) δ 151.2, 145.7, 137.7, 130.5, 127.8, 125.8, 122.9, 121.9, 110.3, 50.798, 30.7, 23.3 ppm; HRMS (ESI) calcd for C12H14N6S (M+) 274.1001. found 274.1007.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | Cl.C(C#C)C=1N=C(NC1)N
reactant | 3-(2-Azido-ethyl)-thiophene | 0.769 mmol, 0.118 g | N(=[N+]=[N-])CCC1=CSC=C1 | C6H7N3S
product | 4-[1-(2-Thiophen-3-yl-ethyl)-1H[1,2,3]triazol-4-ylmethyl]-1H-imidazol-2-ylamine hydrochloride | 0.119 g, 60% | Cl.S1C=C(C=C1)CCN1N=NC(=C1)CC=1N=C(NC1)N | InChI=1S/C12H14N6S.ClH/c13-12-14-6-10(15-12)5-11-7-18(17-16-11)3-1-9-2-4-19-8-9;/h2,4,6-8H,1,3,5H2,(H3,13,14,15);1H
